US03965176
A. Ethyl-N-(3-trifluoromethylphenyl)isobutyrimidate
Add a solution of 5.0 g. (0.03 moles) of triethyloxonium fluoborate in 13 ml. of dichloromethane to a solution of 7.3 g. (0.03 moles) of 3'-trifluoromethylisobutyranilide in 60 ml. of dichloromethane and reflux for 20 hours. Remove 50 ml. of dichloromethane and add 150 ml. of dry ether to precipitate out the product of this example as its fluoborate salt, m.p.=95°-100°C.

reactant | triethyloxonium fluoborate | 0.03 moles | [B-](F)(F)(F)F.CC[O+](CC)CC
reactant | 3'-trifluoromethylisobutyranilide | 0.03 moles | FC(C=1C=C(NC(C(C)C)=O)C=CC1)(F)F | C11H12F3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl-N-(3-trifluoromethylphenyl)isobutyrimidate | C(C)OC(C(C)C)=NC1=CC(=CC=C1)C(F)(F)F | C13H16F3NO
